Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left groin pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pain started on ___, rather abruptly, started as 
dull ache localized mostly to the left groin and hip, initially 
was mild. The pain slowly migrated upwards toward the lower 
abdomen. She initially thought that she was
ovulating because it was the same type of pain she has had 
before with ovulation. Her pain continued to worsen and by 
___ had become ___ in severity so she presented for 
evaluation. She describes a dull ache that is "always there" but 
is also exacerbated by movement (standing, walking, left hip 
ROM), as well as when initiating urinary stream but improves 
after
urination.

Associated symptoms included:
-recurrent left leg swelling (began ___ night, 1 day after
onset of the left groin/hip pain), LLE swelling had previously
resolved after starting apixiban for the recently diagnosed LLE
DVT. Says that since arriving to the hospital, the LLE swelling
has markedly improved.
-chills intermittently, unclear frequency, since ___ (~5 days
ago)

Reported she is taking her apixaban twice daily without any 
missed
doses.
 
Past Medical History:
 1. Intermittent asthma
 2. Obesity
 3. PCOS c/b oligomenorrhea
 4. Depression
 5. Severe vitamin D deficiency
 6. Left common femoral DVT (diagnosed early ___ on 
apixiban
 
Social History:
___
Family History:
Strong family history of diabetes on both maternal and paternal
sides in the ___. No family of malignancy, early onset heart
disease, or sudden death. Mother with blood clot in leg after 
surgery, treated with lovenox.
 
Physical Exam:
 GEN: Appears comfortable
 HEENT: PERRL, MMM, OP clear, anicteric sclera, EOMI without
resting nystagmus
 CV: RR. Normal S1-S2. ___ systolic murmur heard best at RUSB 
and
apex without appreciable radiation, no r/g, 2+ distal pulses, no
significant pitting peripheral edema
 LUNGS: CTAB. No wheezes or crackles.
 ABDOMEN: Obese. Soft, mildly tender to firm palpation in LLQ No 
rebound tenderness in the abdomen.
 EXT: Warm, well perfused. No lower extremity edema. 
 NEURO: AOx4, clear speech, conversant, no facial droop, stable
gait, no tremor, no asterixis, normal coordination of b/l
hands/arms
 PSYCH: calm, cooperative, pleasant
 
Pertinent Results:
___ 06:30PM   ___ PTT-67.5* ___
___ 10:44AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 02:01AM   GLUCOSE-130* UREA N-14 CREAT-0.8 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-109* TOTAL CO2-24 ANION GAP-9*
___ 02:01AM  Factor X-98

#Left leg DVT
DVT US ___ from ___ noncompressible occlusive DVT is present in left 
common
femoral vein, and within superficial femoral vein. The left 
popliteal
vein contained color flow and is compressible.

DVT US ___ from ___
2-D ultrasound, pulsed Doppler and color flow Doppler 
examinations of
the left lower extremity performed. Nonocclusive thrombus in the 
CFV,
SFV and popliteal vein. Compared to the prior study, DVT burden 
has
significantly decreased.

#Ovarian Cyst
Transvaginal US ___ from ___
1. 5.6 x 5.4 x 5.7 cm left ovarian cyst without significant 
pelvic fluid or disruption of flow. 
2. Normal appearing uterus and right ovary. 

 
Brief Hospital Course:
#Left leg DVT
Because imaging demonstrated improvement of DVT relative to last 
scan on ___, we determined that she is responding to the 
apixaban therapy. Furthermore, she has not completed the 
complete course of 3 months. Because the clot has not completely 
resolved, there is some question that 3 months of apixaban is 
insufficient. Given the situation with her healthcare, I believe 
the best way to strategize her ongoing anticoagulation strategy 
is to have an appointment in the outpatient ___ clinic. I 
provided her with the phone number, and she will call to make an 
appointment. In the meantime, she should continue apixaban.

#Left lower abdominal pain
I believe her pain was most likely caused by her ovarian cyst. 
Sciatica or other musculoskeletal pain are also on the 
differential. I have provided her with an oxycodone prescription 
to manage the pain, in case it is from the cyst. Also, her PCP 
___ need to order a follow-up ultrasound to confirm cyst 
resolution in 6 weeks.
 
Medications on Admission:
 1. Apixaban 5mg PO BID
 2. Zoloft 150 mg PO daily
 3. Trazodone 100 mg PO QHS
 4. Melatonin 5 mg PO QHS
 5. Albuterol inhaler PRN
 6. Cetirizine 10 mg PO daily
 7. Vitamin D 50,000 U PO daily (for the past month)
 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 2.5 mg PO Q8H:PRN Pain - 
Severe Duration: 3 Weeks 
RX *oxycodone 5 mg 1 tablet(s) by mouth twice daily Disp #*14 
Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN sob/wheezing  
4.  Apixaban 5 mg PO BID  
5.  Cetirizine 10 mg PO DAILY  
6.  Sertraline 150 mg PO DAILY  
7.  TraZODone 100 mg PO QHS:PRN insomnia / anxiety  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain likely due to ovarian cyst
Left leg blood clot

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call ___ to schedule an appointment in the 
___ clinic within 3 weeks of discharge from the 
hospital.
 
Followup Instructions:
___